US09216996B2
A solution cyclopropanol (1.9 g, 29 mmol) in 20 mL dioxane was added dropwise to a 0° C. solution of Sodium hydride (60% dispersion in mineral oil, 1.04 g, 26 mmol) in 80 mL dioxane. The reaction mixture was allowed to warm to room temperature, 2,4-difluorobenzonitrile (3.48 g, 25 mmol) was added portionwise, and reaction temperature raised to 95° C. The reaction solution was cooled to room temperature after stirring for 18 hours, diluted with ethyl acetate, washed twice with water and twice with brine, dried over MgSO4, filtered, and concentrated onto silica gel. Purification by silica gel chromatography (0-10% EtOAc/hexanes) afforded 2-cyclopropoxy-4-fluorobenzonitrile. 1H-NMR (400 MHz, Chloroform-d) δ 7.52 (dd, J=8.6, 6.2 Hz, 1H), 7.05 (dd, J=10.5, 2.3 Hz, 1H), 6.73 (td, J=8.2, 2.3 Hz, 1H), 3.87-3.76 (m, 1H), 0.87 (m, 4H).

reactant | cyclopropanol | 29 mmol, 1.9 g | C1(CC1)O | C3H6O
reactant | Sodium hydride | 26 mmol, 1.04 g | [H-].[Na+]
reactant | 2,4-difluorobenzonitrile | 25 mmol, 3.48 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-cyclopropoxy-4-fluorobenzonitrile | C1(CC1)OC1=C(C#N)C=CC(=C1)F | C10H8FNO
